US06498165B1
2-[3,5-Dichlorobenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 3,5-dichlorobenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (EI): m/e 370.3 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.58 (s, 1H); 8.45 (d, J=5.5 Hz, 1H); 7.98 (br s, 1H); 7.86 (m, 1H); 7.38 (m, 2H); 7.31 (s, 2H); 6.89 (d, J=5.5 Hz, 1H); 5.88 (br s, 1H); 4.72 (d, J=6.4 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 3,5-dichlorobenzylamine | ClC=1C=C(CN)C=C(C1)Cl | C7H7Cl2N
product | 2-[3,5-Dichlorobenzylamino]-4-[benzimidazol-1-yl]pyrimidine | ClC=1C=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=C(C1)Cl | C18H13Cl2N5
